US04192871
3β-Hydroxy-5α-pregn-16-ene-11,20-dione (3 g) was refluxed with ethylene glycol (8 ml) in benzene (150 ml) containing p-toluenesulphonic acid (150 mg) under a Dean Stark water separator for 20 hours. The mixture was diluted with ethyl acetate, washed with sodium hydrogen carbonate solution, and brine, and dried (sodium sulphate). Evaporation gave 20,20-ethylenedioxy-3β-hydroxy-5α-pregn-16-en-11-one (3.42 g) as a white foam. This foam was dissolved in ethanol (170 ml) and sodium borohydride (2.1 g) in water (21 ml) was added with stirring under reflux. After 1.25 hours, most of the ethanol was evaporated and the residue was partitioned between ethyl acetate and water. The ethyl acetate extract was washed, and evaporated to small volume. This solution was filtered through silica gel (100 g) in ethyl acetate. Evaporation of the eluate gave 20,20-ethylenedioxy-5α-pregn-16-ene-3β,11β-diol (2.45 g) as a white foam which was heated on a steam bath for 1 hour in acetic acid (24 ml) and water (25 ml). The mixture was concentrated and diluted with water. The solid was collected by filtration, washed, and dried. Recrystallisation from ethyl acetate-acetone gave title compound (97 mg), m.p. 214°-218°, [α]D +82.1°.

reactant | 3β-Hydroxy-5α-pregn-16-ene-11,20-dione | 3 g | O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC=C(C(C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C21H30O3
reactant | ethylene glycol | 8 ml | C(CO)O | C2H6O2
reactant | p-toluenesulphonic acid | 150 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 20,20-ethylenedioxy-3β-hydroxy-5α-pregn-16-en-11-one | 3.42 g | C1OC(C)(C2=CC[C@H]3[C@@H]4CC[C@H]5C[C@H](CC[C@]5(C)[C@H]4C(C[C@]23C)=O)O)OC1 | C23H34O4
